US08383642B2
Ethyl (3S)-3-[4-[[4-(bromomethyl)phenyl]methoxy]phenyl]hex-4-ynoate
To a solution ethyl (3S)-3-(4-hydroxyphenyl)hex-4-ynoate (0.1 g, 0.43 mmol) and 1,4-bis(bromomethyl)benzene (0.227 g, 0.861 mmol) in DMF (5 mL) is added Cs2CO3 (0.28 g, 0.861 mmol) at 0° C. The reaction mixture is allowed to warm to room temperature over 2 h. The reaction mixture is diluted with water (25 mL) and extracted with EtOAc (3×10 mL). The combined organic layer is washed with water (10 mL×3) and saturated brine solution (10 mL), dried, filtered, and evaporated to dryness. The crude product is purified by silica gel chromatography, eluting with hexane:ethyl acetate (9.0:1.0) to give the title compound (0.1 g, 55.9%). ESI/MS m/z (M+H)+ 415.4.

reactant | ethyl (3S)-3-(4-hydroxyphenyl)hex-4-ynoate | 0.43 mmol, 0.1 g | OC1=CC=C(C=C1)[C@H](CC(=O)OCC)C#CC | C14H16O3
reactant | 1,4-bis(bromomethyl)benzene | 0.861 mmol, 0.227 g | BrCC1=CC=C(C=C1)CBr | C8H8Br2
reactant | Cs2CO3 | 0.861 mmol, 0.28 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | Ethyl (3S)-3-[4-[[4-(bromomethyl)phenyl]methoxy]phenyl]hex-4-ynoate | 0.1 g, 55.9% | BrCC1=CC=C(C=C1)COC1=CC=C(C=C1)[C@H](CC(=O)OCC)C#CC | C22H23BrO3
